US08012986B2
2-(3-Bromo-phenyl)-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.3) (2.0 g, 6.46 mmol) and commercially available 3-bromo-benzene-boronic acid (1.43 g, 7.12 mmol) according to the general procedure IIb. Obtained as a white solid (0.89 g, 32%). MS (ISP) 430.1 [(M+H)+]; mp 148.5° C.

reactant | 2-chloro-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 6.46 mmol, 2.0 g | ClC1=NC(=CC(=N1)C(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H5ClF5N3
reactant | 3-bromo-benzene-boronic acid | 7.12 mmol, 1.43 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)F)C=1C=NC(=CC1)C(F)(F)F | C17H9BrF5N3
